US06303613B1
(c) 3-Amino-2-(amino(hydroxyimino)methyl)pyridine
A suspension of 3-amino-2-cyanopyridine (1.18 g, 9.9 mmol), sodium methoxide (0.64 g, 12 mmol) and hydroxylamine hydrochloride (0.83 g, 12 mmol) in ethanol (10 ml) was heated under reflux for 1 h. The mixture was filtered and the filtrate concentrated to an oil, which was purified by flash column chromatography on silica gel, eluting with dichloromethane/methanol (50:1 to 10:1) as eluent to afford the product as a yellow solid (0.82 g), MS (+CI) m/z 153 [M+H]+; 1H NMR (d6-DMSO) 9.80 (1H, br. s), 7.80 (1H, dd), 7.10 (1H, d), 7.08 (1H, d), 6.62 (2H, s), 5.90 (1H, s).

reactant | 3-amino-2-cyanopyridine | 9.9 mmol, 1.18 g | NC=1C(=NC=CC1)C#N | C6H5N3
reactant | sodium methoxide | 12 mmol, 0.64 g | C[O-].[Na+]
reactant | hydroxylamine hydrochloride | 12 mmol, 0.83 g | Cl.NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Amino-2-(amino(hydroxyimino)methyl)pyridine | 0.82 g | NC=1C(=NC=CC1)C(=NO)N | C6H8N4O
